US05847127
A solution of 4-methoxy-5-(5-undecyl-1H-pyrrol-2-yl-methylene)-1,5-dihydro-pyrrol-2-one (190 mg; 1 mmol) in amyl alcohol (4.75 ml) and dioxane (4.75 ml) is treated with 0.25 N methansulphonic acid in dioxane (1 ml) and stirred at room temperature under nitrogen atmosphere for 6 hours. The mixture is then poured into water (50 ml) and extracted with ethyl acetate (3×30 ml). The organic phase is shacked with brine, dried over sodium sulphate and evaporated to dryness. The crude material is purified on silica gel eluting with ethyl acetate/methanol 98/2 to give 4-amyloxy-5-(5-undecyl-1H-pyrrol-2-yl-methylene)-1,5-dihydro-pyrrol-2-one (110 mg; 0.45 mmols). Yield: 45%.

reactant | 4-methoxy-5-(5-undecyl-1H-pyrrol-2-yl-methylene)-1,5-dihydro-pyrrol-2-one | 1 mmol, 190 mg | COC1=CC(NC1=CC=1NC(=CC1)CCCCCCCCCCC)=O | C21H32N2O2
reactant | methansulphonic acid | 0.25 N | CS(=O)(=O)O | CH4O3S
reactant | water | 50 ml | O | H2O
solvent | amyl alcohol | 4.75 ml | C(CCCC)O | C5H12O
solvent | dioxane | 4.75 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 4-amyloxy-5-(5-undecyl-1H-pyrrol-2-yl-methylene)-1,5-dihydro-pyrrol-2-one | 0.45 mmols, 110 mg, Yield: 45% | C(CCCC)OC1=CC(NC1=CC=1NC(=CC1)CCCCCCCCCCC)=O | C25H40N2O2
